US07173134B2
B. 5,5,8,8-Tetramethyl-5,6,7,8-tetrahydro-2-naphthalenecarbaldehyde
A flame dried round bottom flask was charged with 6-bromo-1,1,4,4-tetramethyl-1,2,3,4-tetrahydronaphtalene (10 g, 37 mmol) and anhydrous THF (100 mL). This solution was cooled to −70° C. while stirring under a nitrogen blanket. To this solution was added 2.5 M n-butyl lithium (14.9 mL, 37 mmol). The reaction mixture was allowed to stir for 30 minutes at which time it was quenched via the addition of dimethylformamide (5.0 mL). The reaction was allowed to warm to RT where it stirred for 17 hours. The reaction was quenched by the addition of 1.0 N HCl (100 mL). The reaction mixture was extracted using ether. The organics were separated and dried over MgSO4 followed by concentrating to dryness. The resulting oil was dried under high vacuum to give a total of 8.2 g (100%) of crude oil. The product was used without further purification.

reactant | 6-bromo-1,1,4,4-tetramethyl-1,2,3,4-tetrahydronaphtalene | 37 mmol, 10 g | BrC=1C=C2C(CCC(C2=CC1)(C)C)(C)C | C14H19Br
reactant | n-butyl lithium | 37 mmol, 2.5 M, 14.9 mL | C(CCC)[Li]
reactant | THF | 100 mL | C1CCOC1 | C4H8O
product | 5,5,8,8-Tetramethyl-5,6,7,8-tetrahydro-2-naphthalenecarbaldehyde | 8.2 g, 100% | CC1(C=2C=CC(=CC2C(CC1)(C)C)C=O)C | C15H20O
